### PR TITLE
[Merged by Bors] - feat: more API for integrals wrt vector measures

### PR DESCRIPTION
**Pull request by sgouezel**
We port part of the API of Bochner integrals to integrals wrt vector measures (more to come, this was split to keep the PR at a reasonable size).

Also shorten several proofs using directly `setToFun` versions of the lemmas instead of repeating the proofs.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/VectorMeasure/Integral.lean [hunk 1]
```diff
@@ -104,7 +111,7 @@ theorem cbmApplyMeasure_union (μ : VectorMeasure X F) (B : E →L[ℝ] F →L[
 
 theorem dominatedFinMeasAdditive_cbmApplyMeasure (μ : VectorMeasure X F) (B : E →L[ℝ] F →L[ℝ] G) :
     DominatedFinMeasAdditive (μ.transpose B).variation
-    (cbmApplyMeasure μ B : Set X → E →L[ℝ] G) 1 := by
+    (μ.transpose B) 1 := by
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/VectorMeasure/Integral.lean]:
```suggestion
    DominatedFinMeasAdditive (μ.transpose B).variation (μ.transpose B) 1 := by
```

File: Mathlib/MeasureTheory/VectorMeasure/Integral.lean [hunk 2]
```diff
@@ -118,20 +125,131 @@ end cbmApplyMeasure
...
+
+@[simp] lemma transpose_zero : (0 : VectorMeasure X F).transpose B = 0 := by
+  simp [transpose]
+
+lemma transpose_restrict (s : Set X) :
+    (μ.restrict s).transpose B = (μ.transpose B).restrict s := by
+  by_cases hs : MeasurableSet s
+  · ext t ht : 1
+    simp [VectorMeasure.restrict_apply, hs, ht, transpose]
+  · simp [restrict_not_measurable _ hs, transpose]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/VectorMeasure/Integral.lean]:
```suggestion
  · simp [restrict_not_measurable _ hs]
```

File: Mathlib/MeasureTheory/VectorMeasure/Integral.lean [hunk 3]
```diff
@@ -118,20 +125,131 @@ end cbmApplyMeasure
...
+    (μ.transpose B).variation = C • μ.variation := by
+  apply le_antisymm
+  · apply variation_le_of_forall_enorm_le (fun s hs ↦ ?_)
+    apply opENorm_le_bound _ (fun x ↦ ?_)
+    simp only [transpose, mapRange_apply, LinearMap.toAddMonoidHom_coe, coe_coe, flip_apply,
+      enorm_eq_nnnorm, hB, ENNReal.coe_mul, Measure.smul_apply, Measure.nnreal_smul_coe_apply]
+    rw [mul_assoc, mul_comm (‖x‖₊ : ℝ≥0∞), ← mul_assoc]
+    gcongr
+    rw [← enorm_eq_nnnorm]
+    apply enorm_measure_le_variation
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/VectorMeasure/Integral.lean]: Can't you use `variation_transpose_le` for this?

File: Mathlib/MeasureTheory/VectorMeasure/Integral.lean [hunk 4]
```diff
@@ -118,20 +125,131 @@ end cbmApplyMeasure
...
+    suffices μ.variation ≤ C⁻¹ • (μ.transpose B).variation by
+      grw [this, smul_smul, mul_inv_cancel₀ hC, one_smul]
+    apply variation_le_of_forall_enorm_le (fun s hs ↦ ?_)
+    have : ‖μ s‖ₑ ≤ C⁻¹ • ‖(μ.transpose B) s‖ₑ := by
+      simp only [transpose, mapRange_apply, LinearMap.toAddMonoidHom_coe, coe_coe]
+      obtain ⟨x, hx⟩ : ∃ (x : E), x ≠ 0 := exists_ne 0
+      have : ‖B.flip (μ s) x‖₊ ≤ ‖B.flip (μ s)‖₊ * ‖x‖₊ := le_opNNNorm _ _
+      simp only [flip_apply, hB] at this
+      rw [mul_comm C, mul_assoc, mul_comm _ (‖x‖₊), mul_le_mul_iff_right₀ (by simp [hx]),
+        ← le_div_iff₀' (by positivity), div_eq_inv_mul] at this
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/VectorMeasure/Integral.lean]:
```suggestion
      rw [mul_right_comm, mul_le_mul_iff_left₀ (by simpa), ← le_div_iff₀' (by positivity),
        div_eq_inv_mul] at this
```

File: Mathlib/MeasureTheory/VectorMeasure/Integral.lean [hunk 5]
```diff
@@ -118,20 +125,131 @@ end cbmApplyMeasure
...
+  (μ.restrict s).Integrable f B
+
 open Classical in
 /-- The `G`-valued integral of `E`-valued function and the `F`-valued vector measure `μ` with linear
 paring `B : E →L[ℝ] F →L[ℝ] G` . This is set to be `0` if `G` is not complete or if `f` is not
-integrable with respect to `(μ.transpose B).variation`. -/
+integrable with respect to `(μ.transpose B).variation`.
+
+When `μ` is a signed measure, to get the integral in `G` of a `G`-valued function, take
+`B = (ContinousLinearMap.lsmul ℝ ℝ).flip`.
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/VectorMeasure/Integral.lean]: Do you think it's worth having a notation for this case?

File: Mathlib/MeasureTheory/VectorMeasure/Integral.lean [hunk 6]
```diff
@@ -209,194 +340,197 @@ section Function
...
+  | insert a s ha ih =>
+      simp only [Finset.mem_insert, forall_eq_or_imp, ha, not_false_eq_true,
+        Finset.sum_insert] at h ⊢
+      exact integrable_add_vectorMeasure h.1 (ih h.2)
+
+lemma Integrable.restrict (hf : μ.Integrable f B) {s : Set X} :
+    (μ.restrict s).Integrable f B := by
+  by_cases hs : MeasurableSet s
+  · simp only [VectorMeasure.Integrable, transpose_restrict, variation_restrict hs]
+    exact MeasureTheory.Integrable.restrict hf
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/VectorMeasure/Integral.lean]:
```suggestion
  · simpa [VectorMeasure.Integrable, transpose_restrict, variation_restrict hs] using
      MeasureTheory.Integrable.restrict hf
```

File: Mathlib/MeasureTheory/VectorMeasure/Integral.lean [hunk 7]
```diff
@@ -209,194 +340,197 @@ section Function
...
+@[nolint simpNF, simp]
+lemma integrable_zero_vectorMeasure : (0 : VectorMeasure X F).Integrable f B := by
+  simp [VectorMeasure.Integrable]
+
+lemma integrable_add_vectorMeasure (hμ : μ.Integrable f B) (hν : ν.Integrable f B) :
+    (μ + ν).Integrable f B := by
+  apply Integrable.mono_measure (integrable_add_measure.2 ⟨hμ, hν⟩)
+  grw [transpose_add, variation_add_le]
+
+lemma integrable_finsetSum_vectorMeasure {ι : Type*} {μ : ι → VectorMeasure X F} {s : Finset ι}
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/VectorMeasure/Integral.lean]: I think these would be better in the `Integrable` namespace. Can you also add a `neg` a `sub` and a `smul` versions please? Same remarks for the `cbm` section. Also it would be nice to have the same for the sum etc. of functions.

File: Mathlib/MeasureTheory/VectorMeasure/Integral.lean [hunk 8]
```diff
@@ -209,194 +340,197 @@ section Function
...
-  by_cases hG : CompleteSpace G
-  · simp only [integral, hG, ↓reduceDIte, transpose_sub_vectorMeasure, coe_sub,
-      transpose_eq_cbmApplyMeasure, ← setToFun_sub_measure
-        (dominatedFinMeasAdditive_cbmApplyMeasure μ B)
-        (dominatedFinMeasAdditive_cbmApplyMeasure ν B) hμ hν]
-    refine (setToFun_congr_measure_of_integrable 1 ENNReal.one_ne_top ?_ _ _ f ?_).symm
-    · simpa using variation_sub_le
-    · exact hμ.add_measure hν
-  · simp [integral, hG]
+  rw [sub_eq_add_neg, integral_add_vectorMeasure hμ, integral_neg_vectorMeasure, ← sub_eq_add_neg]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/VectorMeasure/Integral.lean]: Once you add `Integrable.neg_vectorMeasure` you can use `hµ.neg_vectorMeasure` here.

**Review by EtienneC30 — COMMENTED** [review]
Thanks!

File: Mathlib/MeasureTheory/VectorMeasure/Integral.lean (hunk 5 above)
Comment (sgouezel) [reply Mathlib/MeasureTheory/VectorMeasure/Integral.lean]: Sure, why not! Any idea?

File: Mathlib/MeasureTheory/VectorMeasure/Integral.lean (hunk 7 above)
Comment (sgouezel) [reply Mathlib/MeasureTheory/VectorMeasure/Integral.lean]: I've tried to copy exactly the names of the Bochner integral API. The lemmas are named `integrable_add_measure` there.

Comment (sgouezel) [reply Mathlib/MeasureTheory/VectorMeasure/Integral.lean]: Still I agree with you that dot notation is better, so I've changed, and added the lemmas. The ones for the sum etc. of functions are ready for the next PR.

File: Mathlib/MeasureTheory/VectorMeasure/Integral.lean (hunk 5 above)
Comment (EtienneC30) [reply Mathlib/MeasureTheory/VectorMeasure/Integral.lean]: I was hoping you would have one XD
Maybe `∫ᵛ x, f x ∂*μ`?

File: Mathlib/MeasureTheory/VectorMeasure/Integral.lean (hunk 7 above)
Comment (EtienneC30) [reply Mathlib/MeasureTheory/VectorMeasure/Integral.lean]: I am wondering if it is worth having this kind of lemmas:
```lean
lemma Integrable.add (hf : μ.Integrable f B) (hg : μ.Integrable g B) :
    μ.Integrable (f + g) B :=
  MeasureTheory.Integrable.add hf hg
```
given that the fact `Integrable` being an `abbrev` means we can directly use `MeasureTheory.Integrable`. What do you think? I think if we don't put them it is at least worth to mention it in the docstring of `Integrable`.

Comment (EtienneC30) [reply Mathlib/MeasureTheory/VectorMeasure/Integral.lean]: Ah sorry I had not read the last sentence of your message!

File: Mathlib/MeasureTheory/VectorMeasure/Integral.lean [hunk 9]
```diff
@@ -1,10 +1,12 @@
 /-
 Copyright (c) 2025 Yoh Tanimoto. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
-Authors: Yoh Tanimoto, Yongxi Lin
+Authors: Yoh Tanimoto, Yongxi Lin, Sébastien Gouëzel
 -/
 module
 
+public import Mathlib.MeasureTheory.Integral.Bochner.Basic
+public import Mathlib.MeasureTheory.Integral.IntegrableOn
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/VectorMeasure/Integral.lean]: I don't think those are needed.

File: Mathlib/MeasureTheory/VectorMeasure/Integral.lean [hunk 10]
```diff
@@ -61,9 +67,10 @@ unconditionally convergent.
 
 public section
 
-open Set MeasureTheory VectorMeasure ContinuousLinearMap
+open Set MeasureTheory VectorMeasure ContinuousLinearMap Filter Topology
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/VectorMeasure/Integral.lean]:
```suggestion
open Set MeasureTheory VectorMeasure ContinuousLinearMap
```

File: Mathlib/MeasureTheory/VectorMeasure/Integral.lean (hunk 9 above)
Comment (sgouezel) [reply Mathlib/MeasureTheory/VectorMeasure/Integral.lean]: They're not needed for now, indeed (but they will be needed for the next PR). Let's remove them for now.

File: Mathlib/MeasureTheory/VectorMeasure/Integral.lean (hunk 5 above)
Comment (sgouezel) [reply Mathlib/MeasureTheory/VectorMeasure/Integral.lean]: I went for `∫ᵛ x, f x ∂<•μ` for coherence with the way we denote right actions.

**Comment by EtienneC30** [comment]
Thanks!
maintainer merge

**Review by RemyDegenne — APPROVED** [review]
Thanks!
bors r+
